US09145354B2
Step 2 To a stirred solution of 3-{[(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}-propyl]amino}-3-methylbutanoic acid (0.023 g, 0.0585 mmol), iPr2NEt (0.0714 mL, 0.41 mmol) and ammonium chloride (0.0157 g, 0.293 mmol) in DMF (0.351 mL) at 0° C. was added HATU (0.0334 g, 0.0878 mmol). The mixture was allowed to warm to room temperature and stirred for 1 hour. The mixture was poured into EtOAc and washed with water (×3). The organic extract was dried (Na2SO4), filtered and concentrated. The material was converted to the HCl salt and triturated with EtOAc providing 3-{[(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]amino}-3-methylbutanamide, 0.013 g, 52%.

reactant | 3-{[(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}-propyl]amino}-3-methylbutanoic acid | 0.0585 mmol, 0.023 g | ClC1=C(C(=C(C=C1)[C@@H](CC)NC(CC(=O)O)(C)C)F)C(=O)C=1C=NC=CC1 | C20H22ClFN2O3
reactant | iPr2NEt | 0.41 mmol, 0.0714 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonium chloride | 0.293 mmol, 0.0157 g | [Cl-].[NH4+]
reactant | HATU | 0.0878 mmol, 0.0334 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.351 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{[(1R)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]amino}-3-methylbutanamide | ClC1=C(C(=C(C=C1)[C@@H](CC)NC(CC(=O)N)(C)C)F)C(=O)C=1C=NC=CC1 | C20H23ClFN3O2
